US07414131B2
A. 7-Benzyl-5,6,7,8-tetrahydro-N-phenylpyrido[3,4-d]pyrimidin-4-amine
7-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine prepared as described in Example 1.B. (1.0 g, 3.86 mmol) was dissolved in anhydrous acetonitrile (3 mL) and aniline was added (0.39 mL, 4.24 mmol). The mixture was heated at 180° C. for 600 s in a microwave (Emrys Optimizer model, Personal Chemistry). The solvents were removed under vacuum to give the desired product as a beige powder (1.5 g, quant.). The crude product was used for the subsequent step.

reactant | 7-Benzyl-4-chloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)Cl | C14H14ClN3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 7-Benzyl-5,6,7,8-tetrahydro-N-phenylpyrido[3,4-d]pyrimidin-4-amine | 1.5 g | C(C1=CC=CC=C1)N1CC=2N=CN=C(C2CC1)NC1=CC=CC=C1 | C20H20N4
